US07893056B2
Phenylmethyl (9aR)-octahydro-2H-pyrido[1,2-a]pyrazine-2-carboxylate (688 mg, 2.50 mmol) was dissolved in MeOH (15 mL), degassed and placed under argon. 10% Pd/C (206 mg) was added, and the contents were thoroughly degassed and placed under a hydrogen balloon for 2 h. The contents were then degassed, and the Pd/C was removed by filtration through Celite, washing with MeOH. The filtrate was concentrated in vacuo to provide pure (9aR)-octahydro-2H-pyrido[1,2-a]pyrazine (364 mg, 99%). LCMS: (M+H)+: 141.1.

reactant | Phenylmethyl (9aR)-octahydro-2H-pyrido[1,2-a]pyrazine-2-carboxylate | 2.50 mmol, 688 mg | C1[C@@H]2N(CCN1C(=O)OCC1=CC=CC=C1)CCCC2 | C16H22N2O2
solvent | MeOH | 15 mL | CO | CH4O
product | (9aR)-octahydro-2H-pyrido[1,2-a]pyrazine | 364 mg, 99% | C1[C@@H]2N(CCN1)CCCC2 | C8H16N2
